US04111934
Preparation of 8-chloro-4,6-dihydro-1-methyl-6-phenyl-5H-S-triazolo [4,5-a][1,5] benzodiazepin-5-one
A mixture of 3.3g (0.01M) of 7-chloro-3,5-dihydro-2-(N-nitrosomethylamino)-5-phenyl-4H-1,5-benzodiazepin-4-one, 2g of acetylhydrazine, 5 ml of triethylamine and 50 ml of n-butanol was heated to reflux for 3 hrs. Half of the solvent was then removed by distillation and replaced by fresh n-butanol. Refluxing was continued for 3 days. The residue obtained after evaporation was chromotographed over 100 g of silical gel(Merck 70-230 mesh) using 10% (v/v) ethanol in methylene chloride for elution. Crystallization of the pure fraction from methylene chloride/ether yielded the above maned product, m.p. 298°-300°.

reactant | 7-chloro-3,5-dihydro-2-(N-nitrosomethylamino)-5-phenyl-4H-1,5-benzodiazepin-4-one | 0.01M, 3.3g | ClC1=CC2=C(N=C(CC(N2C2=CC=CC=C2)=O)NCN=O)C=C1 | C16H13ClN4O2
reactant | acetylhydrazine | C(C)(=O)NN | C2H6N2O
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 50 ml | C(CCC)O | C4H10O
product | 8-chloro-4,6-dihydro-1-methyl-6-phenyl-5H-S-triazolo [4,5-a][1,5] benzodiazepin-5-one | ClC=1C=CC2=C(N(C(CC=3N2C(=NN3)C)=O)C3=CC=CC=C3)C1 | C17H13ClN4O
